US07642373B2
(b) Preparation of 6-(4-iodophenoxy)hexanoic acid (4)
Ethyl 6-(4-iodophenoxy)hexanoate (3.62 g, 10 mmol), in ethanol (30 ml), water (30 ml) was treated with sodium hydroxide (1 g, 25 mmol) and the reaction was stirred under reflux for 3 h. The reaction was then allowed to cool and concentrated in vacuum to a solid. The solid was then treated cautiously with ethyl acetate (100 ml) and 1N hydrochloric acid (100 ml) and the reaction stirred at room temperature for 10 min. The ethyl acetate layer was separated dried over sodium sulfate and concentrated in vacuum to give a pale yellow solid (3.11 g, 9.3 mmol, 93%), δH (CDCl3) 1.48-1.82 (6H, m, 3,4,5-CH2), 2.40 (2H, t, 2-CH2), 3.91 (2H, t, 6-CH2O), 6.67 (2H, dd, 2,6-ArH), 7.53 (2H, dd, 3,5-ArH), δc (CDCl3) 24.31, 25.50, 38.75, 33.89, 82.54, 116.87, 138.14, 158.83 and 179.97

reactant | Ethyl 6-(4-iodophenoxy)hexanoate | 10 mmol, 3.62 g | IC1=CC=C(OCCCCCC(=O)OCC)C=C1 | C14H19IO3
reactant | water | 30 ml | O | H2O
reactant | sodium hydroxide | 25 mmol, 1 g | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-(4-iodophenoxy)hexanoic acid | 9.3 mmol, 3.11 g, 93% | IC1=CC=C(OCCCCCC(=O)O)C=C1 | C12H15IO3
